US08193356B2
To a suspension of 4-hydroxy-3-(2-thienylacetyl)-1-(3-trifluoromethoxyphenyl)-1,8-naphthyridin-2(1H)-one (180 mg, 0.40 mmol) produced in Synthesis Example 41 in DMF (3 mL) was added hydrazine monohydrate (purity of 80%, 97 μL), and the mixture was stirred at 110 to 120° C. for 2 hours. To the reaction solution was added a sodium hydrogencarbonate aqueous solution. The resulting precipitate was separated by filtration, washed with water, recrystallized from methanol, and dried to give 3-(2-thienylmethyl)-5-(3-trifluoromethoxyphenyl)-1H-pyrazolo[4,3-c][1,8]-naphthyridin-4(5H)-one as a form of crystal (109 mg, yield 61%).

reactant | 4-hydroxy-3-(2-thienylacetyl)-1-(3-trifluoromethoxyphenyl)-1,8-naphthyridin-2(1H)-one | 0.40 mmol, 180 mg | OC1=C(C(N(C2=NC=CC=C12)C1=CC(=CC=C1)OC(F)(F)F)=O)C(CC=1SC=CC1)=O | C21H13F3N2O4S
reactant | hydrazine monohydrate | 97 μL | O.NN
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-(2-thienylmethyl)-5-(3-trifluoromethoxyphenyl)-1H-pyrazolo[4,3-c][1,8]-naphthyridin-4(5H)-one | S1C(=CC=C1)CC1=NNC2=C1C(N(C=1N=CC=CC21)C2=CC(=CC=C2)OC(F)(F)F)=O | C21H13F3N4O2S
